US05306830
Preparation of Intermediate 8-Bromo-3-(di-n-propylamino)-5-methoxychroman
To a solution of 8-bromo-5-methoxy-3-chromanone (550 mg, 2.14 mmol) in benzene (40 ml), di-n-propylamino (1.8 ml, 13.2 mmol) and p-toluenesulfonic acid, monohydrate (41 mg, 0.32 mmol) was added. The solution was refluxed for 5 hours with a Dean-Stark apparatus under nitrogen atmosphere. After cooling to room temperature a solution of sodium cyanoborohydride (2.0 g, 32 mmol) dissolved in MeOH (50 ml) was added and thereafter stirred overnight. Water was added (50 ml) and 5% NaOH-solution (5ml). The solution was extracted with CH2Cl2. The organic layer was separated, washed with water and dried (Na2SO4). The solvent was evaporated and the residue was chromatographed (SiO2) with light petroleum-ether (3:1) as eluant yielding 550 mg (75%) as an oil. The amine was converted to its hydrochloride with HCl-saturated ethanol. Evaporation and recrysstallization (ethanol-ether) gave the product as crystals.

reactant | 8-bromo-5-methoxy-3-chromanone | 2.14 mmol, 550 mg | BrC=1C=CC(=C2CC(COC12)=O)OC | C10H9BrO3
reactant | p-toluenesulfonic acid, monohydrate | 0.32 mmol, 41 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium cyanoborohydride | 32 mmol, 2.0 g | C(#N)[BH3-].[Na+]
reactant | NaOH | 5ml | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
reactant | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | MeOH | 50 ml | CO | CH4O
solvent | Water | O | H2O
product | 8-Bromo-3-(di-n-propylamino)-5-methoxychroman | BrC=1C=CC(=C2CC(COC12)N(CCC)CCC)OC | C16H24BrNO2
